US07119122B2
4-Chloro-2-fluorobenzonitrile (0.65 g, 4.2 mmol), 3-hydroxy-2-methoxybenzaldehyde (0.64 g, 4.2 mmol) and cesium carbonate (1.37 g, 4.2 mmol) were heated with stirring in dry DMF (4 ml) at S0° C. for 18 h. The reaction mixture was cooled, poured into water and extracted with ethyl acetate. The ethyl acetate layer was separated, washed with water (2×), 10% aqueous sodium carbonate (2×), water and brine and dried over MgSO4. After filtration, the solvent was removed in vacuo to yield 4-chloro-2-(3-formyl-4-methoxy-phenoxy)-benzonitrile (1.09 g, 90%) as a yellow-orange solid.

reactant | 4-Chloro-2-fluorobenzonitrile | 4.2 mmol, 0.65 g | ClC1=CC(=C(C#N)C=C1)F | C7H3ClFN
reactant | 3-hydroxy-2-methoxybenzaldehyde | 4.2 mmol, 0.64 g | OC=1C(=C(C=O)C=CC1)OC | C8H8O3
reactant | cesium carbonate | 4.2 mmol, 1.37 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 4-chloro-2-(3-formyl-4-methoxy-phenoxy)-benzonitrile | 1.09 g, 90% | ClC1=CC(=C(C#N)C=C1)OC1=CC(=C(C=C1)OC)C=O | C15H10ClNO3
